US04031221
By following the manipulative procedure described in Example 2(d), 0.7 g of lithium aluminum hydride in 30 ml. of tetrahydrofuran and 1.5 g of 1-(indol-3-ylglyoxyloyl)-3-(p-fluorophenoxy)azetidine in 30 ml. of tetrahydrofuran are reacted to produce a white solid. The solid is recrystallized twice from an ethanol and water mixture to give colorless needles of 3-{2-[3-(p-fluorophenoxy)azetidinyl]ethyl}indole, m.p. 111°-113°.

reactant | lithium aluminum hydride | 0.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(indol-3-ylglyoxyloyl)-3-(p-fluorophenoxy)azetidine | 1.5 g | N1C=C(C2=CC=CC=C12)C(C(=O)N1CC(C1)OC1=CC=C(C=C1)F)=O | C19H15FN2O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-{2-[3-(p-fluorophenoxy)azetidinyl]ethyl}indole | FC1=CC=C(OC2CN(C2)CCC2=CNC3=CC=CC=C23)C=C1 | C19H19FN2O
